US06069157
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(3,4-dimethoxyphenyl)pyrazole
To a rapidly stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole (0.335 g) in toluene (2 ml) containing tetrakis(triphenylphosphine)palladium(0) (0.03 g) was added saturated aqueous sodium hydrogen carbonate solution (1 ml) and a solution of 3,4-dimethoxyphenylboronic acid (0.273 g) in ethanol (1 ml). The mixture was heated under reflux for 5 hours, cooled and then poured into ether (25 ml) and water (25 ml). The organic layer was separated, washed with water (2×25 ml), brine (25 ml) and then dried (MgSO4) and evaporated. The residue was purified by column chromatography on silica gel (30 g) eluted with dichloromethane: ethanol (99:1). Combination and evaporation of suitable fractions gave the title compound as a pale pink crystalline solid, m.p. 250° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-iodopyrazole | 0.335 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4
reactant | sodium hydrogen carbonate | 1 ml | C(O)([O-])=O.[Na+]
reactant | 3,4-dimethoxyphenylboronic acid | 0.273 g | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
reactant | ether | 25 ml | CCOCC | C4H10O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.03 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 25 ml | O | H2O
product | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-(3,4-dimethoxyphenyl)pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)C1=CC(=C(C=C1)OC)OC | C19H13Cl2F3N4O2
